US06939885B2
Synthesis of N-[4-Chloro-2-(2-methyl-pyridine-4-carbonyl)phenyl]-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 123 mg of (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone and 122 mg of 4-oxazol-5-yl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 2.78 (s, 3H), 7.29 (d, 1H, J=2.8 Hz), 7.45 (m, 2H), 7.48 (s, 1H), 7.55 (dd, 1H, J=9.2 Hz, 2.8 Hz)), 7.67 (m, 3H), 7.83 (d, 2H, J=8.4 Hz), 8.03 (s, 1H), 8.81 (d, 1H, J=5.6 Hz), 10.10 (s, 1H). MS: m/z 454.9 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone | 123 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C | C13H11ClN2O
reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | 122 mg | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
product | N-[4-Chloro-2-(2-methyl-pyridine-4-carbonyl)phenyl]-4-oxazol-5-yl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1)C(=O)C1=CC(=NC=C1)C | C22H16ClN3O4S
